US07767675B2
Step 3. N-cyclopropyl-3-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzamide
N,N-Diisopropylethylamine (194 μL, 1.11 mmol) was added to a mixture of 3-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzoic acid TFA salt (126.9 mg, 0.2 mmol), cyclopropylamine (17.1 mg, 0.3 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (97.3 mg, 0.22 mmol) in N,N-dimethylformamide (1.0 mL). The mixture was stirred at RT for 3 h, and was diluted with methanol (0.8 mL). The resulting solution was purified by RP-HPLC (pH=10) to give the desired product. LCMS: (M+H)=446.1.

reactant | N,N-Diisopropylethylamine | 1.11 mmol, 194 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzoic acid TFA salt | 0.2 mmol, 126.9 mg | OC(=O)C(F)(F)F.N1=CC=CC2=CC(=CC=C12)C1(CC1)C1=CN=C2N1C=C(C=N2)C=2C=C(C(=O)O)C=CC2
reactant | cyclopropylamine | 0.3 mmol, 17.1 mg | C1(CC1)N | C3H7N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.22 mmol, 97.3 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | methanol | 0.8 mL | CO | CH4O
product | N-cyclopropyl-3-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzamide | C1(CC1)NC(C1=CC(=CC=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2)=O | C28H23N5O
